* C:\EE310_Group9_Water-Level-Sensor\Phase3_Receiver\Opamp based receiver.asc
* Generated by LTspice 26.0.1 for Windows.
Cpd Vdiode 5V 4p
Rpd Vdiode 5V 200Meg
I1 5V Vdiode PULSE(0 9u 0 10n 10n 11u 33u 0)
R15 N007 V_bias 82k
R6 N005 V_bias 10k
X§U2B N007 N005 5V 0 V_IN_RX TLC081 ;§pnba In+)In-)V+)V-)OUT
C9 N007 Vdet1 10n
R3 V_IN_RX N005 15k
X§U5A N013 V_bias 5V 0 V_SQ TLC081 ;§pnba In+)In-)V+)V-)OUT
R23 N013 V_IN_RX 100
R27 V_SQ N013 100k
X§U5B N006 V_bias 5V 0 Vfilter TLC081 ;§pnba In+)In-)V+)V-)OUT
R24 N006 V_P 220
R28 Vfilter N006 100k
D3 V_SQ N003 1N4148
C18 N003 V_P 5n
R26 N003 V_P 1500
R29 V_P 0 2700
V2 5V 0 5
C8 5V 0 100n
R8 Vdiode 0 120k
X§U2A Vdiode N010 5V 0 Vdet1 TLC081 ;§pnba In+)In-)V+)V-)OUT
R2 Vdet1 N010 10k
X§U3A N004 N001 5V 0 N002 TLC081 ;§pnba In+)In-)V+)V-)OUT
R1 N002 N001 10k
R16 N004 0 10k
R9 V_bias N002 10k
R12 N004 5V 10k
R5 N010 0 10k
C5 Vdet1 N010 56p
C6 V_IN_RX N005 33p
C12 N004 0 1.5n
C10 V_bias 0 1.5n
X§U3B N012 N011 5V 0 N009 TLC081 ;§pnba In+)In-)V+)V-)OUT
R13 N012 5V 10k
R33 0 N012 2.7k
C25 5V 0 390n
C14 N009 N011 10n
R7 N011 N008 10k
C13 N008 0 10n
R4 N009 N008 220k
R14 N008 Vfilter 100k
R10 Vout N009 10k
C11 Vout 0 80n
.model D D
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.dio
.lib LM324.lib
.tran 0 25ms 0 10u
.lib LTC.lib
.include TLC081.mod
* Input conditioning
* Input signal conditioning w/ high pass filter
* Receiver (Rx) - Opamp Design
* Positive edge detector
* comparator for square wave
* Pulse generator
* Comparator w/ low pass for avg
* SFH 203 P characteristics:\n400-1100 nm\nC_0 = 4pF @ 2V, 3.5pF @ 5V\nIp = 9uA @ 1k lx\nIp = 100nA @ low light\nI_R = 1-5 nA @ V_R = 20V\nR_leak = 20/5n = 4x10^9 Ohms
* Cutoff frequency f_0 =1/(2 pi R_F C_F)
* buffer
* frequency range of 3k to 30k
* Gain of 15
* high pass filter fc approx 200Hz to get rid of dc\nlow pass filter fc approx 300kHz
* Goes from 1v to 3v ish from 30khz to 3khz. pretty much works just needs inversion so that 3khz gives 3v, just dont know where given all the non inverting amps on the pcb
* 2.5 Bias
* Transimpedance amp + photo diode
* Difference amp
* low pass filter fc approx 300kHz
.backanno
.end
